US08084614B2
To a solution of (S)-pyrrolidine-2-carboxylic acid tert-butyl ester (350 mg, 2.04 mmol) in CH3CN (5 mL), 3-bromo-propan-1-ol (268 μL, 3.06 mmol) and K2CO3 (844 mg, 6.12 mmol) were added. The mixture was heated at 85° C. overnight, concentrated and purified by silica gel column chromatography (DCM/MeOH=95/5) to afford 444 mg (S)-1-(3-hydroxy-propyl)-pyrrolidine-2-carboxylic acid tert-butyl ester. MS: 230.2 (M+H)+, tR=0.99 min (method 1).

reactant | (S)-pyrrolidine-2-carboxylic acid tert-butyl ester | 2.04 mmol, 350 mg | C(C)(C)(C)OC(=O)[C@H]1NCCC1 | C9H17NO2
reactant | 3-bromo-propan-1-ol | 3.06 mmol, 268 μL | BrCCCO | C3H7BrO
reactant | K2CO3 | 6.12 mmol, 844 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | CH3CN | 5 mL | CC#N | C2H3N
product | (S)-1-(3-hydroxy-propyl)-pyrrolidine-2-carboxylic acid tert-butyl ester | 444 mg | C(C)(C)(C)OC(=O)[C@H]1N(CCC1)CCCO | C12H23NO3
